US04018794
4-Benzyl-3-ethylthio-5-sulfamylbenzoic acid
A mixture of 4-benzyl-3-mercapto-5-sulfamylbenzoic acid (1.0 g), sodium hydrogen carbonate (0.3 g), sodium dithionite (0.3 g), ethyl iodide (1.0 ml) and saturated sodium hydrogen carbonate solution (8 ml) is stirred at 70° C for 3 hours. After cooling, the precipitated sodium 4-benzyl-3-ethylthio-5-sulfamylbenzoate is collected by filtration and washed with a minor amount of icecold water. After drying, the sodium salt is dissolved in hot water (10 ml), and the solution is clarified by the filtration hot in the presence of decolorizing carbon. The solution is acidified with conc. hydrochloric acid (0.5 ml) to precipitate the 4-benzyl-3-ethylthio-5-sulfamylbenzoic acid. The acid is collected by filtration, washed with water and dried. After recrystallization from aqueous ethanol, the compound is obtained with a melting point of 234° -235° C.

reactant | 4-benzyl-3-mercapto-5-sulfamylbenzoic acid | 1.0 g | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)S | C14H13NO4S2
reactant | sodium hydrogen carbonate | 0.3 g | C(O)([O-])=O.[Na+]
reactant | sodium dithionite | 0.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ethyl iodide | 1.0 ml | C(C)I | C2H5I
reactant | sodium hydrogen carbonate | 8 ml | C(O)([O-])=O.[Na+]
product | 4-Benzyl-3-ethylthio-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCC | C16H17NO4S2
